US08487108B2
(R)-2-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine (134 g, 7.24 mmol, 1.5 equiv) was dissolved in 9 mL of THF and the solution cooled to −78° C. A 2.5 M solution of nBuLi (2.9 mL, 7.24 mmol, 1.5 equiv) was added over a 15 min period and the resulting solution stirred for 0.5 h. A solution of (±)-tert-butyl((1r,2R,4S)-2-fluoro-4-(iodomethyl)cyclopentyloxy)dimethylsilane (1.73 g, 4.83 mmol, 1.0 equiv) in THF (9 mL) was added. The mixture was stirred at −78° C. for 2 h, then warmed to −20 and allowed to stir overnight at that temperature. The mixture was quenched with water and the organic layer washed with brine, dried over Na2SO4, filtered, and evaporated. The resulting mixture was dissolved in 60 mL of 1:1 CH3CN: 2.0 M HCl. After stirring for 5 h at ambient temperature the mixture was evaporated and re-dissolved in 30 mL of CH3CN. To this was added 30 mL of 10% K2CO3, followed by 3.3 g (15 mmol, 3.0 equiv) of di-tert-butyl dicarbonate and the mixture rapidly stirred for 1 h. After the time the solution was evaporated. The yellow residue was dissolved in EtOAc and washed with 10% K2CO3, 0.5 M HCl, brine, then dried over Na2SO4, filtered, and evaporated. The desired protected amino acid was purified by flash chromatography on silica, eluting with 0-41% EtOAc. This afforded 1114 mg (3.63 mmol, 75% yield) of (S)-methyl 2-(tert-butoxycarbonylamino)-3-((1 r*,3S*,4S*)-3-fluoro-4-hydroxycyclopentyl)propanoate.

reactant | (R)-2-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine | 7.24 mmol, 134 g, 1.5 equiv | C(C)(C)[C@H]1N=C(CN=C1OC)OC | C9H16N2O2
reactant | nBuLi | 7.24 mmol, 2.9 mL, 1.5 equiv | [Li]CCCC
reactant | (±)-tert-butyl((1r,2R,4S)-2-fluoro-4-(iodomethyl)cyclopentyloxy)dimethylsilane | 4.83 mmol, 1.73 g, 1.0 equiv | C(C)(C)(C)[Si](C)(C)O[C@H]1[C@@H](C[C@H](C1)CI)F | C12H24FIOSi
reactant | di-tert-butyl dicarbonate | 15 mmol, 3.3 g, 3.0 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 9 mL | C1CCOC1 | C4H8O
reactant | THF | 9 mL | C1CCOC1 | C4H8O
product | (S)-methyl 2-(tert-butoxycarbonylamino)-3-((1 r*,3S*,4S*)-3-fluoro-4-hydroxycyclopentyl)propanoate | 3.63 mmol, 1114 mg, 75% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)C[C@H]1C[C@@H]([C@H](C1)O)F | C14H24FNO5
